US06858651B2
1.14 g (2.7 mmol) trans-3-{4-[Methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-propionic acid methyl ester in 27 ml THF were treated with 27 ml 1M LiOH for 1 h at RT. The was acidified by adding 1M KHSO4, and the mixture was extracted with EtOAc. The organic phase was washed with brine, dried over Na2SO4 and evaporated to give 1.1 g (quant.) trans-3-{4-[Methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-propionic acid as colorless oil, MS: 408 (M−H)−.

reactant | trans-3-{4-[Methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-propionic acid methyl ester | 2.7 mmol, 1.14 g | COC(CCO[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)=O | C18H24F3NO5S
reactant | LiOH | 1M, 27 ml | [Li+].[OH-]
reactant | KHSO4 | 1M | OS(=O)(=O)[O-].[K+]
solvent | THF | 27 ml | C1CCOC1 | C4H8O
product | trans-3-{4-[Methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-propionic acid | 1.1 g | CN([C@@H]1CC[C@H](CC1)OCCC(=O)O)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C17H22F3NO5S
